US04367238
A solution of phenyl 2-methoxy-3-bromomethylphenyl ether (8.5 g) in dimethyl sulfoxide (30 ml) and powdered sodium cyanide (1.45 g) were treated in a similar manner to that of Example 14-(4) to give oily 2-(2-methoxy-3-phenoxyphenyl)acetonitrile (6.6 g).

reactant | phenyl 2-methoxy-3-bromomethylphenyl ether | 8.5 g | COC1=C(C=CC=C1CBr)OC1=CC=CC=C1 | C14H13BrO2
reactant | sodium cyanide | 1.45 g | [C-]#N.[Na+]
solvent | dimethyl sulfoxide | 30 ml | CS(=O)C | C2H6OS
product | 2-(2-methoxy-3-phenoxyphenyl)acetonitrile | 6.6 g | COC1=C(C=CC=C1OC1=CC=CC=C1)CC#N | C15H13NO2
